US07638515B2
29.7 g (163.7 mmol) of 4-chloro-2-methoxybenzylcyanide and 46.5 g (327.4 mmol) of methyl iodide in 260 ml DMF are mixed at 0° C. in portions with 13.2 g (327.4 mmol) of sodium hydride (60% in oil). It is stirred overnight and then mixed with water and ethyl acetate. The phases are separated, and the aqueous phase is extracted several times with ethyl acetate. It is washed with water and saturated sodium chloride solution, dried with sodium sulfate, and concentrated by evaporation in a vacuum. After chromatography on silica gel (hexane/ethyl acetate 95:5), 32.4 g of 2-(4-chloro-2-methoxy-phenyl)-2-methylpropionitrile is obtained as a colorless oil. 7 g (33.4 mmol) of the nitrile is slowly mixed in toluene at −78° C. with 41.6 ml (50.1 mmol) of diisobutylaluminum hydride solution (20% in toluene), and after 3 hours at −78° C., 5.55 ml of isopropanol is added in drops. It is allowed to heat to −5° C., and 380 ml of a 10% aqueous tartaric acid solution is added. After dilution with ether, it is stirred vigorously, the organic phase is separated, and the aqueous phase is extracted several times with ether. It is washed with brine, dried with sodium sulfate and concentrated by evaporation in a vacuum. After chromatography on silica gel (hexane/ethyl acetate 95:5), 7.1 g of 2-(4-chloro-methoxy-phenyl)-2-methylpropanal is obtained as a colorless oil. A solution of 8.95 g (33.4 mmol) of 2-diethylphosphono-2-ethoxyacetic acid-ethyl ester in 30 ml of tetrahydrofuran is mixed while being cooled with ice within 20 minutes with 19 ml (38 mmol) of a 2 M solution of lithium diisopropylamide in tetrahydrofuran-heptane-toluene, and it is stirred for 15 minutes at 0° C. Within 30 minutes, a solution of 7.1 g (33.4 mmol) of 2-(3-chloro-2-methoxyphenyl)-2-methylpropanal in 27 ml of tetrahydrofuran is added in drops at 0° C. After 20 hours at room temperature, water is added, and it is extracted several times with ether and ethyl acetate. It is washed with saturated ammonium chloride solution, dried (Na2SO4) and concentrated by evaporation. The crude product is purified by column chromatography on silica gel (hexane/ethyl acetate 10%), and 8.5 g of 4-(3-chloro-2-methoxy-phenyl)-4-methyl-3-ethoxy-2-ene-valeric acid ethyl ester is obtained. The intermediate product is saponified with 80 ml of 3 M sodium hydroxide solution/160 ml of ethanol. 5.3 g of acid, which is stirred with 80 ml of 2N sulfuric acid at 90° C. over 16 hours, is obtained. After cooling, it is made basic with potassium carbonate, washed with ether, and acidified with hydrochloric acid. After extraction with ethyl acetate, washing with saturated sodium chloride solution and removal of the solvent, 4.0 g of 4-(3-chloro-2-methoxyphenyl)-4-methyl-2-oxo-valeric acid is obtained. 6.6 g (24.3 mmol) of 4-(3-chloro-2-methoxy-phenyl)-4-methyl-2-oxo-valeric acid and 2.74 ml (51.4 mmol) of sulfuric acid (96%) are refluxed in 150 ml of ethanol for 5 hours. The batch is concentrated by evaporation in a vacuum, and the residue is taken up in saturated sodium bicarbonate solution. It is extracted several times with ethyl acetate, washed with saturated sodium bicarbonate solution, dried (sodium sulfate) and concentrated by evaporation in a vacuum. After chromatographic purification on silica gel (hexane/ethyl acetate 10%), 5.9 g of 4-(3-chloro-2-methoxy-phenyl)-4-methyl-2-oxo-valeric acid-ethyl ester is obtained. This ester and 3.4 g (23.8 mmol) of (trifluoromethyl)-trimethylsilane in 34 ml of THF are mixed with 49 mg of tetrabutylammonium fluoride at 0° C. It is stirred for 16 hours at room temperature, and then the reaction mixture is added to water. It is extracted several times with ethyl acetate, washed with saturated sodium chloride solution, dried with sodium sulfate, and concentrated by evaporation in a vacuum. 2.96 g of 4-(3-chloro-2-methoxy-phenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid-ethyl ester is obtained as a yellow oil. This oil is mixed in 24 ml of diethyl ether at 0° C. with 510 mg of lithium aluminum hydride and stirred for 4 more hours at room temperature. 20 ml of saturated sodium bicarbonate solution is carefully added to the batch at 0° C., and it is vigorously stirred for 1 more hour. It is extracted several times with methyl tert-butyl ether, washed with water and saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation in a vacuum. The crude product is mixed in 33 ml of THF with 1.83 (5.79 mmol) of tetrabutylammonium fluoride trihydrate, and it is stirred for 16 hours. It is poured into ice water, extracted several times with methyl tert-butyl ether, washed with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation in a vacuum. After chromatographic purification on silica gel (hexane/ethyl acetate 25%), 1.81 g of 4-(3-chloro-2-methoxy-phenyl)-4-methyl-2-trifluoromethyl-pentane-1,2-diol is obtained.

reactant | 4-(3-chloro-2-methoxy-phenyl)-4-methyl-2-oxo-valeric acid | 24.3 mmol, 6.6 g | ClC=1C(=C(C=CC1)C(CC(C(=O)O)=O)(C)C)OC | C13H15ClO4
reactant | sulfuric acid | 51.4 mmol, 2.74 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | 4-(3-chloro-2-methoxy-phenyl)-4-methyl-2-oxo-valeric acid-ethyl ester | 5.9 g | C(C)OC(C(CC(C)(C)C1=C(C(=CC=C1)Cl)OC)=O)=O | C15H19ClO4
